* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4098-1 1 2 3 4 5 6
B1 0 N004 I=10u*dnlim(uplim(V(1),V(4)+69.3,.1), V(4)-.15, .1)+1n*V(1)-10.72254n
B2 N004 0 I=10u*dnlim(uplim(V(2),V(4)+69.3,.1), V(4)-.16, .1)+1n*V(2)
C10 N004 0 50f Rpar=100K noiseless
M1 N018 NG 4 4 NI temp=27
C2 3 5 1p Rpar=1g noiseless
D5 NG N021 DLIMN1
M2 P001 N005 N002 N002 PI temp=27
A3 N013 N015 4 4 4 4 N005 4 OTA g=2u ref=-.305 linear vlow=-1e308 vhigh=1e308
C11 5 4 1p Rpar=1g noiseless
D6 NG 4 DLIMN2
C16 N015 5 12p
A5 N010 0 N013 N013 N013 N013 N015 N013 OTA g=70u isource=10.3u Vlow=-1e308 Vhigh=1e308
G1 4 NG N015 N013 140n
D9 N015 N013 DLIM
C7 2 0 2.7p Rser=1k Rpar=100G noiseless
C13 3 4 10p
C1 N007 0 30f
G2 0 N013 4 0 .5m
G4 0 N013 3 0 .5m
C18 N013 0 200p Rpar=1K noiseless
C6 1 0 2.7p Rser=1k Rpar=100G noiseless
D3 3 N002 DSBD
C5 3 N002 100f Rpar=10Meg noiseless
D4 N002 N005 DLIMP
D2 N007 0 DLIM0
A2 N014 0 0 0 0 0 0 0 OTA g=0 in=1.8p ink=15
D11 5 N018 DNR
C15 N018 4 100f Rpar=10Meg noiseless
D7 N005 3 DLIMPR
A6 4 3 M M M M N003 M OTA g=2u iout=1u ref=-2.5 Rout=1Meg Cout=100f vlow=-1e308 vhigh=1e308
S4 N020 N022 N003 0 SBiasN
D13 3 N012 DBiasDrop
C14 N020 4 100f
S2 N002 N005 0 N003 SHUT
S3 NG 4 0 N003 SHUT
D16 2 1 D1Meg
C17 N008 0 174.26f noiseless Rser=2.667Meg Rpar=1Meg
G3 0 N008 N007 0 1µ
D17 0 N007 DNLIN
C20 N010 0 47f Rpar=1Meg noiseless
G5 0 N010 N009 0 1µ
S5 N013 N015 4 5 SGK
C3 3 N005 .9p Rser=700k noiseless
C12 NG 4 .9p Rser=700k noiseless
D14 2 N012 DBiasOTT
D15 1 N020 DBiasOTT
S1 0 N006 3 2 SNOI
A7 N006 0 0 0 0 0 0 0 OTA g=0 in=17.25p ink=5
A1 2 1 0 0 0 0 0 0 OTA g=0 in=145f ink=6
GNOI_I 1 2 N014 0 1µ
S6 0 N014 3 2 SNOI
A4 0 N004 0 0 0 0 N007 0 OTA g=1u linear en=16.95n*(1+freq/12e5) enk=3.3 Vhigh=1e308 Vlow=-1e308
GNOI_V N004 0 N006 0 10n
I1 0 1 1.76n
S9 3 4 N016 0 SP
S10 3 N005 N016 0 SHUT2
S11 NG 4 N016 0 SHUT2
A8 6 4 0 0 0 0 N016 0 SCHMITT Vt=1.5 Vh=1m Trise=1u Tfall=100u
S7 5 0 N016 0 SHUT2
S8 P001 5 0 N016 SHUT3
S13 N017 4 0 N016 SHUT3
G6 0 M 3 0 500µ
R1 M 0 1k noiseless
G7 0 M 4 0 500µ
R2 N025 0 48 noiseless
C4 N026 N025 10n Rpar=47.9K noiseless
R3 N026 0 1 noiseless
G8 0 N026 1 0 5.25m
G9 0 N026 2 0 5.25m
G10 0 N026 0 3 5.25m
G11 0 N026 0 4 5.25m
G12 0 N004 0 N025 1µ
D12 3 N017 DP
S12 N012 N020 0 N016 SHUT3
C9 6 0 100f
C19 N009 0 174.26f noiseless Rser=3.667Meg Rpar=1Meg
G13 0 N009 N008 0 1µ
S14 N022 4 0 N016 SHUT3
S15 N021 4 0 N016 SHUT3
I2 0 2 2.04n
D1 4 6 DSHUT1
D18 4 5 DESD
S16 2 4 4 2 ESDI
S18 1 4 4 1 ESDI
.model DP D(Ron=1k Roff=1G Vfwd=2.5 epsilon=100m ilimit=1.4u noiseless)
.model SP SW(Ron=100 Roff=1G vt=.5 vh=10m ilimit=17u noiseless)
.model DESD D(Ron=1k Roff=1G vfwd=700m epsilon=100m noiseless)
.model SNOI SW(Ron=1 Roff=1Meg vt=1.2 vh=-100m noiseless)
.model NI VDMOS(Vto=325.5m kp=72.3m Mtriode=.9 lambda=.01)
.model PI VDMOS(Vto=-325.5m Kp=341m lambda=.01 pchan is=0)
.model DLIM0 D(Ron=10 Roff=10Meg Vfwd=1 epsilon=100m Vrev=1 epsilon=100m noiseless)
.model DNLIN D(Roff=1.8Meg Ron=800k vfwd=0 epsilon=10m noiseless)
.model DLIM D(Ron=100 Roff=2.949Meg Vfwd=700m Vrev=100m epsilon=10m revepsilon=10 noiseless)
.model SHUT SW(level=2 Ron=10k Roff=100G vt=-.5 vh=-.2 noiseless)
.model DSHUT1 D(Ron=1000 Roff=0.823E6 Vfwd=1 epsilon=100m Vrev=1 epsilon=100m ilimit=100n revilimit=0.1n noiseless)
.model DSBD D( Ron=15 Roff=100Meg  Vfwd=-58.5m epsilon=50m  Vrev=100 revepsilon=10m noiseless)
.model DNR D(Ron=1 Roff=100Meg Vfwd=-6.5m epsilon=300m noiseless)
.model DLIMN1 D(Ron=200k Roff=415Meg Vfwd=1.378 Vrev=-330m epsilon=.1  noiseless)
.model DLIMN2 D(Ron=5Meg Roff=1G Vfwd=-20m epsilon=50m ilimit=44n noiseless)
.model DLIMP D(Ron=100k Roff=100Meg Vfwd=0.63 epsilon=10m noiseless)
.model DLIMPR D(Ron=5Meg Roff=1G Vfwd=100m epsilon=10m noiseless)
.model SGK SW(level=2 Ron=65k Roff=100G  vt=-260m vh=150m oneway epsilon=10m noiseless)
.model SBiasN SW(level=2 Ron=5k Roff=1g vt=.5 vh=-.2 ilimit=8u noiseless)
.model DBiasDrop D(Ron=1k Roff=1G vfwd=2.37 epsilon=200m noiseless)
.model DBiasOTT D(Ron=500 Roff=1G vfwd=700m epsilon=200m noiseless)
.model D1Meg D(Ron=1Meg Roff=1Meg vfwd=0 vrev=0 ilimit=10n revilimit=10n noiseless)
.model SHUT3 SW(Ron=10 Roff=10G vt=-0.5 vh=100m noiseless)
.model SHUT2 SW(Ron=10 Roff=10G vt=0.5 vh=100m noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=31.6 Vh=-500m Vser=0.1 noiseless)
.ends ADA4098-1
